US04670441
1.1 4-(5-Trifluoromethylpyrid-2-yloxy)phenylisocyanate
20.3 g (0.08 mol) of 4-(5-trifluoromethylpyrid-2-yloxy)aniline are dissolved in 200 ml of dry chlorobenzene. This solution is cooled to -20° C. and rapidly added a solution of 3.7 g of gaseous HCl in 80 ml of dry chlorobenzene. The resultant crystalline slurry is cooled to -30° C. and a strong flow of about 40 g of phosgene is introduced over 1 hour. The addition of phosgene is then discontinued and the reaction mixture is stirred for 1 hour at 20° C. and subsequently for 1 hour in an oil bath at 110° C. A clear solution forms which is then cooled in a stream of nitrogen and, with stirring, excess phosgene is expelled with nitrogen. First the chlorobenzene is distilled off under normal pressure and then the isocyanate is distilled off under a high vaccum. Boiling point 105°-107° C./0.03 mbar; yield>90%.

reactant | 4-(5-trifluoromethylpyrid-2-yloxy)aniline | 0.08 mol, 20.3 g | FC(C=1C=CC(=NC1)OC1=CC=C(N)C=C1)(F)F | C12H9F3N2O
reactant | HCl | 3.7 g | Cl | ClH
reactant | phosgene | about 40 g | C(=O)(Cl)Cl | CCl2O
solvent | chlorobenzene | 200 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 80 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4-(5-Trifluoromethylpyrid-2-yloxy)phenylisocyanate | yield>90% | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)N=C=O)(F)F | C13H7F3N2O2
